2143-12-24 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   A fib o/n
   Diuresis
   Replacing lytes
   Allergies:
   Lisinopril
   dizziness
   vert
   Last dose of Antibiotics:
   Infusions:
   Eptifibatide (Integrilin) - 1 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-12-24**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 86 (74 - 89) bpm
   BP: 127/37(62) {113/37(62) - 141/77(86)} mmHg
   RR: 23 (20 - 31) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                     96 mL
                                                                    738 mL
   PO:
             TF:
   IVF:
                                                                     96 mL
                                                                    738 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                  1,550 mL
   Urine:
                                                                    260 mL
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,264 mL
                                                                   -812 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   207 K/uL
   11.1 g/dL
   123 mg/dL
   1.2 mg/dL
   29 mEq/L
   2.9 mEq/L
   18 mg/dL
   99 mEq/L
   140 mEq/L
   31.1 %
   11.7 K/uL
        [image002.jpg]
                             [**2143-12-23**]  10:52 PM
                             [**2143-12-23**]  11:26 PM
                             [**2143-12-24**]  04:04 AM
   WBC
   11.7
   Hct
   31.1
   Plt
   203
   207
   Cr
   1.2
   TropT
   2.71
   4.32
   Glucose
   123
   Other labs: PT / PTT / INR:13.5/25.8/1.2, CK / CKMB /
   Troponin-T:1148/76/4.32, Ca++:8.6 mg/dL, Mg++:1.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   80 year-old woman with a history of hyperlipidemia and hypertension,
   presenting with a STEMI.
   # CORONARIES:  Found to have occluded LAD lesion which was
   angiopastied.  Also with RCA and LCx disease.  Risk factors include
   hypertension and hyperlipidemia with LDL >100 on pravastatin 20.
   Appears to have had muscle aches on atorvastatin and simvastatin.
   - Continue with aspirin and plavix
   - Increase pravastatin
   - Integrillin for 18 hours
   - ACEI and beta-blocker to be added back as tolerated
   # PUMP:  No echo in our system.  Currently satting well though noted to
   have elevated wedge in lab (28).
   - Check echo in AM
   - ACEI as tolerated
   - Got lasix in cath lab and will follow UO
   # RHYTHM:  Currently in afib with rate in the 90s.
   - Continue amiodarone at 1mg/hr
   - Consider cardioversion if does not convert on own
   - Start heparin in AM
   FEN:  Cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx -- currently on integrillin
   -Bowel regimen
   CODE: Presumed full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control: Blood sugar well controlled
   Lines:
   Arterial Line - [**2143-12-23**] 10:45 PM
   20 Gauge - [**2143-12-23**] 11:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, integrillin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2143-12-23**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-12-24 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt. being diuresed yesterday with good effect.  She is remained
   asymptomatic, free of chest pain or shortness of breath, denies n/v,
   diaphoresis.  She was in A fib o/n, in and out.  Require lytes
   replacement.  Amiodarone decreased to 0.5mg/min.
   Allergies:
   Lisinopril
   dizziness
   vert
   Last dose of Antibiotics:
   Infusions:
   Eptifibatide (Integrilin) - 1 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-12-24**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 86 (74 - 89) bpm
   BP: 127/37(62) {113/37(62) - 141/77(86)} mmHg
   RR: 23 (20 - 31) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                     96 mL
                                                                    738 mL
   PO:
             TF:
   IVF:
                                                                     96 mL
                                                                    738 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                  1,550 mL
   Urine:
                                                                    260 mL
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,264 mL
                                                                   -812 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal) JVP 5cm
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: tachypneic, (Expansion: Symmetric), (Breath
   Sounds: Clear : anteriorly, posteriorly crackles
 up posterior lung
   fields).
   Abdominal: Soft, Non-tender
   Extremities: no edema b/l warm.  .
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   207 K/uL
   11.1 g/dL
   123 mg/dL
   1.2 mg/dL
   29 mEq/L
   2.9 mEq/L
   18 mg/dL
   99 mEq/L
   140 mEq/L
   31.1 %
   11.7 K/uL
        [image002.jpg]
                             [**2143-12-23**]  10:52 PM
                             [**2143-12-23**]  11:26 PM
                             [**2143-12-24**]  04:04 AM
   WBC
   11.7
   Hct
   31.1
   Plt
   203
   207
   Cr
   1.2
   TropT
   2.71
   4.32
   Glucose
   123
   Other labs: PT / PTT / INR:13.5/25.8/1.2, CK / CKMB /
   Troponin-T:1148/76/4.32, Ca++:8.6 mg/dL, Mg++:1.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   80 year-old woman with a history of hyperlipidemia and hypertension,
   presenting with a STEMI, based on CCath, nature likely embolic and not
   thrombotic.
   # CORONARIES:  Found to have occluded LAD lesion which was
   angiopastied.  Also with RCA and LCx disease.  Risk factors include
   hypertension and hyperlipidemia with LDL >100 on pravastatin 20.
   Appears to have had muscle aches on atorvastatin and simvastatin.
   - Continue with aspirin and plavix
   - Continue pravastatin
   - Will complete  Integrillin infusion
   - Will start captopril 6.25 TID and beta-blocker 12.5mg TID
   - Trend CKs as not reached peak yet.
   # PUMP:  No echo in our system.  Currently satting well though noted to
   have elevated wedge in lab (28).  Still volume overloaded on exam.
   - F/U Check echo in AM
   - ACEI as above
   - Continue diuresis w/ Lasix, goal
 1.5 to 2L
   -
   # RHYTHM:  Currently in afib with rate in the 70 - 90s.
   - d/c amiodarone as no effect on afib
   - If pt continues to be in afib tomorrow, will consider cardioversion
   w/ TEE
   - Will hold off on heparin, as pt. likely to convert
   - Will consider OP coumadin
   FEN:  Cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx
 heparin SC
   -Bowel regimen
   CODE: Presumed full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control: Blood sugar well controlled
   Lines:
   Arterial Line - [**2143-12-23**] 10:45 PM
   20 Gauge - [**2143-12-23**] 11:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, integrillin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:   Monitor in CCU for an additional day.

2143-12-25 05:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   80 year-old woman with a history of hyperlipidemia and hypertension,
   presenting with a STEMI.
   24 Hour Events:
   The patient's amiodarone was stopped.  She had afib with RVR with rates
   in the 130's to 140's in the afternoon.  She was given 5 mg IV
   metoprolol x 1 and her po metoprolol was increased to 25 mg po tid.
   Her K was repleted.  She converted back into NSR with the metoprolol.
   CTsurg was contact[**Name (NI) **] to evaluate her for CABG.  Her UA ordered by
   CTSurg for CABG workup returned with 3-5 WBC, tr leuk and mod bact (no
   Ucx sent).  Will recheck UA and send UCx
   Allergies:
   Lisinopril
   dizziness
   vert
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2143-12-24**] 10:00 AM
   Metoprolol - [**2143-12-24**] 02:10 PM
   Heparin Sodium (Prophylaxis) - [**2143-12-24**] 10:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-12-25**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 70 (68 - 145) bpm
   BP: 121/52(70) {94/52(66) - 140/82(96)} mmHg
   RR: 18 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                  1,918 mL
                  PO:
                                                                    980 mL
                  TF:
   IVF:
                                                                    938 mL
   Blood products:
   Total out:
                                                                  2,965 mL
                                                                    170 mL
   Urine:
                                                                  2,965 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,047 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal) JVP 5cm
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: tachypneic, (Expansion: Symmetric), (Breath
   Sounds: Clear : anteriorly, posteriorly crackles
 up posterior lung
   fields).
   Abdominal: Soft, Non-tender
   Extremities: no edema b/l warm.  .
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   210 K/uL
   11.1 g/dL
   96 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.6 mEq/L
   22 mg/dL
   99 mEq/L
   140 mEq/L
   31.7 %
   9.9 K/uL
        [image002.jpg]
                             [**2143-12-23**]  10:52 PM
                             [**2143-12-23**]  11:26 PM
                             [**2143-12-24**]  04:04 AM
                             [**2143-12-24**]  01:51 PM
                             [**2143-12-25**]  04:35 AM
   WBC
   11.7
   9.9
   Hct
   31.1
   31.7
   Plt
   [**Telephone/Fax (3) 2579**]
   Cr
   1.2
   1.2
   1.3
   TropT
   2.71
   4.32
   3.11
   Glucose
   123
   159
   96
   Other labs: PT / PTT / INR:12.6/24.4/1.1, CK / CKMB /
   Troponin-T:312/36/3.11, ALT / AST:21/46, Alk Phos / T Bili:55/0.9,
   Albumin:3.4 g/dL, LDH:353 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   TTE showed  Suboptimal image quality. Mild distal septal and apical
   hypokinesis with preserved left ventricular ejection fraction, EF of
   45-50% vs 55% (discordant in the report). Mild pulmonary hypertension.
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   80 year-old woman with a history of hyperlipidemia and hypertension,
   presenting with a STEMI, based on CCath, nature likely embolic and not
   thrombotic.
   # CORONARIES:  Found to have occluded LAD lesion which was
   angiopastied.  Also with RCA and LCx disease.  Risk factors include
   hypertension and hyperlipidemia with LDL >100 on pravastatin 20.
   Appears to have had muscle aches on atorvastatin and simvastatin.
   - Continue with aspirin and plavix
   - Continue pravastatin
   - Will complete  Integrillin infusion
   - Will start captopril 6.25 TID and beta-blocker 12.5mg TID
   - Trend CKs as not reached peak yet.
   # PUMP:  No echo in our system.  Currently satting well though noted to
   have elevated wedge in lab (28).  Still volume overloaded on exam.
   - F/U Check echo in AM
   - ACEI as above
   - Continue diuresis w/ Lasix, goal
 1.5 to 2L
   -
   # RHYTHM:  Currently in afib with rate in the 70 - 90s.
   - d/c amiodarone as no effect on afib
   - If pt continues to be in afib tomorrow, will consider cardioversion
   w/ TEE
   - Will hold off on heparin, as pt. likely to convert
   - Will consider OP coumadin
   FEN:  Cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx
 heparin SC
   -Bowel regimen
   CODE: Presumed full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2143-12-23**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-12-25 05:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   80 year-old woman with a history of hyperlipidemia and hypertension,
   presenting with a STEMI.
   24 Hour Events:
   The patient's amiodarone was stopped.  She had afib with RVR with rates
   in the 130's to 140's in the afternoon.  She was given 5 mg IV
   metoprolol x 1 and her po metoprolol was increased to 25 mg po tid.
   Her K was repleted.  She converted back into NSR with the metoprolol.
   CTsurg was contact[**Name (NI) **] to evaluate her for CABG.  Her UA ordered by
   CTSurg for CABG workup returned with 3-5 WBC, tr leuk and mod bact (no
   Ucx sent).  Will recheck UA and send UCx.
   TTE showed  Suboptimal image quality. Mild distal septal and apical
   hypokinesis with preserved left ventricular ejection fraction, EF of
   45-50% vs 55% (discordant in the report). Mild pulmonary hypertension.
 EKG - At [**2143-12-24**] 08:00 AM
 EKG - At [**2143-12-24**] 05:30 PM
   conversion to SR
 URINE CULTURE - At [**2143-12-24**] 05:43 PM
   Allergies:
   Lisinopril
   dizziness
   vert
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2143-12-24**] 10:00 AM
   Metoprolol - [**2143-12-24**] 02:10 PM
   Heparin Sodium (Prophylaxis) - [**2143-12-24**] 10:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-12-25**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 70 (68 - 145) bpm
   BP: 121/52(70) {94/52(66) - 140/82(96)} mmHg
   RR: 18 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                  1,918 mL
                  PO:
                                                                    980 mL
                  TF:
   IVF:
                                                                    938 mL
   Blood products:
   Total out:
                                                                  2,965 mL
                                                                    170 mL
   Urine:
                                                                  2,965 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,047 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal) JVP 5cm
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: tachypneic, (Expansion: Symmetric), (Breath
   Sounds: Clear : anteriorly, posteriorly crackles
 up posterior lung
   fields).
   Abdominal: Soft, Non-tender
   Extremities: no edema b/l warm.  .
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   210 K/uL
   11.1 g/dL
   96 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.6 mEq/L
   22 mg/dL
   99 mEq/L
   140 mEq/L
   31.7 %
   9.9 K/uL
        [image002.jpg]
                             [**2143-12-23**]  10:52 PM
                             [**2143-12-23**]  11:26 PM
                             [**2143-12-24**]  04:04 AM
                             [**2143-12-24**]  01:51 PM
                             [**2143-12-25**]  04:35 AM
   WBC
   11.7
   9.9
   Hct
   31.1
   31.7
   Plt
   [**Telephone/Fax (3) 2579**]
   Cr
   1.2
   1.2
   1.3
   TropT
   2.71
   4.32
   3.11
   Glucose
   123
   159
   96
   Other labs: PT / PTT / INR:12.6/24.4/1.1, CK / CKMB /
   Troponin-T:312/36/3.11, ALT / AST:21/46, Alk Phos / T Bili:55/0.9,
   Albumin:3.4 g/dL, LDH:353 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   80 year-old woman with a history of hyperlipidemia and hypertension,
   presenting with a STEMI, based on CCath, nature likely embolic and not
   thrombotic.
   # CORONARIES:  Found to have occluded LAD lesion which was
   angiopastied.  Also with RCA and LCx disease.  Risk factors include
   hypertension and hyperlipidemia with LDL >100 on pravastatin 20.
   Appears to have had muscle aches on atorvastatin and simvastatin.
   - Continue with aspirin and plavix
   - Continue pravastatin
   - Will complete  Integrillin infusion
   - Will start captopril 6.25 TID and beta-blocker 12.5mg TID
   - Trend CKs as not reached peak yet.
   # PUMP:  No echo in our system.  Currently satting well though noted to
   have elevated wedge in lab (28).  Still volume overloaded on exam.
   - F/U Check echo in AM
   - ACEI as above
   - Continue diuresis w/ Lasix, goal
 1.5 to 2L
   -
   # RHYTHM:  Currently in afib with rate in the 70 - 90s.
   - d/c amiodarone as no effect on afib
   - If pt continues to be in afib tomorrow, will consider cardioversion
   w/ TEE
   - Will hold off on heparin, as pt. likely to convert
   - Will consider OP coumadin
   FEN:  Cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx
 heparin SC
   -Bowel regimen
   CODE: Presumed full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2143-12-23**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-12-25 05:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   80 year-old woman with a history of hyperlipidemia and hypertension,
   presenting with a STEMI.
   24 Hour Events:
   The patient's amiodarone was stopped.  She had afib with RVR with rates
   in the 130's to 140's in the afternoon.  She was given 5 mg IV
   metoprolol x 1 and her po metoprolol was increased to 25 mg po tid.
   Her K was repleted.  She converted back into NSR with the metoprolol.
   CTsurg was contact[**Name (NI) **] to evaluate her for CABG.
   She denies SOB, CP, dizziness or lightheadedness.  Walked OOB to
   commode.
   Allergies:
   Lisinopril
   dizziness
   vert
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2143-12-24**] 10:00 AM
   Metoprolol - [**2143-12-24**] 02:10 PM
   Heparin Sodium (Prophylaxis) - [**2143-12-24**] 10:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-12-25**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 70 (68 - 145) bpm
   BP: 121/52(70) {94/52(66) - 140/82(96)} mmHg
   RR: 18 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                  1,918 mL
                  PO:
                                                                    980 mL
                  TF:
   IVF:
                                                                    938 mL
   Blood products:
   Total out:
                                                                  2,965 mL
                                                                    170 mL
   Urine:
                                                                  2,965 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,047 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Tele:  PVs 70s w/ couplets and PVCs.
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal) JVP 5cm
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: tachypneic, (Expansion: Symmetric), (Breath
   Sounds: Clear : anteriorly, posteriorly rhonchi
 up posterior lung
   fields).
   Abdominal: Soft, Non-tender
   Extremities: no edema b/l warm.  .
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   210 K/uL
   11.1 g/dL
   96 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.6 mEq/L
   22 mg/dL
   99 mEq/L
   140 mEq/L
   31.7 %
   9.9 K/uL
        [image002.jpg]
                             [**2143-12-23**]  10:52 PM
                             [**2143-12-23**]  11:26 PM
                             [**2143-12-24**]  04:04 AM
                             [**2143-12-24**]  01:51 PM
                             [**2143-12-25**]  04:35 AM
   WBC
   11.7
   9.9
   Hct
   31.1
   31.7
   Plt
   [**Telephone/Fax (3) 2579**]
   Cr
   1.2
   1.2
   1.3
   TropT
   2.71
   4.32
   3.11
   Glucose
   123
   159
   96
   Other labs: PT / PTT / INR:12.6/24.4/1.1, CK / CKMB /
   Troponin-T:312/36/3.11, ALT / AST:21/46, Alk Phos / T Bili:55/0.9,
   Albumin:3.4 g/dL, LDH:353 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   TTE showed  Suboptimal image quality. Mild distal septal and apical
   hypokinesis with preserved left ventricular ejection fraction, EF of
   45-50% vs 55% (discordant in the report). Mild pulmonary hypertension.
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   80 year-old woman with a history of hyperlipidemia and hypertension,
   presenting with a STEMI, based on CCath, nature likely embolic and not
   thrombotic.
   # CORONARIES:  Found to have occluded LAD lesion which was
   angiopastied.  Also with RCA and LCx disease.  Risk factors include
   hypertension and hyperlipidemia with LDL >100 on pravastatin 20.
   Appears to have had muscle aches on atorvastatin and simvastatin.
   - Continue with aspirin and plavix
   - Continue pravastatin
   - Will complete  Integrillin infusion
   - Will start captopril 6.25 TID and beta-blocker 12.5mg TID
   - Trend CKs as not reached peak yet.
   # PUMP:  No echo in our system.  Currently satting well though noted to
   have elevated wedge in lab (28).  Still volume overloaded on exam.
   - F/U Check echo in AM
   - ACEI as above
   - Continue diuresis w/ Lasix, goal
 1.5 to 2L
   -
   # RHYTHM:  Currently in afib with rate in the 70 - 90s.
   - d/c amiodarone as no effect on afib
   - If pt continues to be in afib tomorrow, will consider cardioversion
   w/ TEE
   - Will hold off on heparin, as pt. likely to convert
   - Will consider OP coumadin
   FEN:  Cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx
 heparin SC
   -Bowel regimen
   CODE: Presumed full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2143-12-23**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-12-25 05:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   80 year-old woman with a history of hyperlipidemia and hypertension,
   presenting with a STEMI.
   24 Hour Events:
   The patient's amiodarone was stopped.  She had afib with RVR with rates
   in the 130's to 140's in the afternoon.  She was given 5 mg IV
   metoprolol x 1 and her po metoprolol was increased to 25 mg po tid.
   Her K was repleted.  She converted back into NSR with the metoprolol.
   CTsurg was contact[**Name (NI) **] to evaluate her for CABG.
   She denies SOB, CP, dizziness or lightheadedness.  Walked OOB to
   commode.
   Allergies:
   Lisinopril
   dizziness
   vert
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2143-12-24**] 10:00 AM
   Metoprolol - [**2143-12-24**] 02:10 PM
   Heparin Sodium (Prophylaxis) - [**2143-12-24**] 10:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-12-25**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 70 (68 - 145) bpm
   BP: 121/52(70) {94/52(66) - 140/82(96)} mmHg
   RR: 18 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                  1,918 mL
                  PO:
                                                                    980 mL
                  TF:
   IVF:
                                                                    938 mL
   Blood products:
   Total out:
                                                                  2,965 mL
                                                                    170 mL
   Urine:
                                                                  2,965 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,047 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Tele:  PVs 70s w/ couplets and PVCs.
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal) JVP 5cm
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: tachypneic, (Expansion: Symmetric), (Breath
   Sounds: Clear : anteriorly, posteriorly rhonchi
 up posterior lung
   fields).
   Abdominal: Soft, Non-tender
   Extremities: no edema b/l warm.  .
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   210 K/uL
   11.1 g/dL
   96 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.6 mEq/L
   22 mg/dL
   99 mEq/L
   140 mEq/L
   31.7 %
   9.9 K/uL
        [image002.jpg]
                             [**2143-12-23**]  10:52 PM
                             [**2143-12-23**]  11:26 PM
                             [**2143-12-24**]  04:04 AM
                             [**2143-12-24**]  01:51 PM
                             [**2143-12-25**]  04:35 AM
   WBC
   11.7
   9.9
   Hct
   31.1
   31.7
   Plt
   [**Telephone/Fax (3) 2579**]
   Cr
   1.2
   1.2
   1.3
   TropT
   2.71
   4.32
   3.11
   Glucose
   123
   159
   96
   Other labs: PT / PTT / INR:12.6/24.4/1.1, CK / CKMB /
   Troponin-T:311/13/2.11, ALT / AST:21/46, Alk Phos / T Bili:55/0.9,
   Albumin:3.4 g/dL, LDH:353 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   TTE showed  Suboptimal image quality. Mild distal septal and apical
   hypokinesis with preserved left ventricular ejection fraction, EF of
   45-50% vs 55% (discordant in the report). Mild pulmonary hypertension.
   Assessment and Plan
   80 year-old woman with a history of hyperlipidemia and hypertension,
   presenting with a STEMI, based on CCath, nature likely embolic and not
   thrombotic.
   # CORONARIES:  Found to have occluded LAD lesion which was
   angiopastied.  Also with RCA and LCx disease.  Risk factors include
   hypertension and hyperlipidemia with LDL >100 on pravastatin 20.
   Appears to have had muscle aches on atorvastatin and simvastatin.  CKs
   peaked at 1148
   - Continue with aspirin and plavix
   - Continue pravastatin
   - Continue captopril 6.25 TID and beta-blocker 25mg TID
   - ? RCA PCI in am, will discuss w/ team.  Discuss w/ family and pt. re:
   PCA
   # PUMP:  EF 40-50%, Mild distal septal and apical hypokinesis.
   Currently satting well, no other signs of volume overload.
   - ACEI as above
   - will stop diuresis as euvolemic and no new O2 requirement.
   -
   # RHYTHM:  Currently in afib with rate in the 70 - 90s.
   - d/c amiodarone as no effect on afib
   - If pt continues to be in afib tomorrow, will consider cardioversion
   w/ TEE
   - Will hold off on heparin, as pt. likely to convert
   - Will consider OP coumadin
   # Pulm
 diffuse rhonchi on exam.  Possibly bronchospasm [**2-23**] pulm edema
   from HF during previous two days.  No vascular congestion on XR from
   [**12-24**]
   -          nebs prn
   -          will repeat CXR if no improvement in AM.
   -          Spirometry
   FEN:  Cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx
 heparin SC
   -Bowel regimen
   CODE: Presumed full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:  not an issue.
   Lines:
   20 Gauge - [**2143-12-23**] 11:00 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:  NA
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Will likely transfer to floor today.  Ambulate x3 today.
   PT consult.